* D:\Github Repositories\power-electronics-2025\Module 1 Diodes\simulations\Rectificadores.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 120 60)
D1 0 N006 UPSC600
D2 0 N001 UPSC600
D3 N001 N006 UPSC600
D5 0 0 UPSC600
R1 N006 0 100k
C1 N006 0 100µ V=400
D4 N010 N007 ES1D
R2 N007 0 100k
V2 N011 0 SINE(0 120 60 0 0 0) AC 120 180
V3 N010 0 SINE(0 120 60 0 0 240) AC 120 360
V4 N012 0 SINE(0 120 60 0 0 120) AC 120 0
C2 N007 0 100µ V=400
D6 N011 N007 ES1D
D7 N012 N007 ES1D
D8 0 N012 ES1D
D9 0 N011 ES1D
D10 0 N010 ES1D
D11 N003 0 1N4007
V5 N002 0 SINE(0 10 1k)
R4 N003 N002 10K
D12 0 N005 1N4007
V6 N004 0 SINE(0 10 1k)
R3 N005 N004 10K
D13 N009 N013 1N4007
V7 N008 0 SINE(0 12 1k)
R5 N009 N008 10K
D14 N014 N009 1N4007
V8 N013 0 6
V9 0 N014 6
.model D D
.lib C:\Users\WILMER JIMENEZ\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200m
* RECTIFICADOR TRIFASICO
* RECTIFICADOR MONOFÀSICO
* SHUNT CLIPPER
* *Positive Peak Clipping
* *Negative Peak Clipping
* SLICER
.backanno
.end
